US05238962
A solution of 0.6 ml of methanesulfonyl chloride in 3 ml of methylene chloride is added dropwise at 0° to a solution of 1.5 g (0.0075 mol) of N-(2-hydroxyethyl)-4-chlorobenzamide and 1 ml of triethylamine in 15 ml of methylene chloride. After 15 minutes, the mixture is poured on to ice/water and extracted. There are obtained 2.1 g of N-(2-methylsulfonyloxyethyl)-4-chlorobenzamide in crystalline form which is used in the next step without further purification.

reactant | methanesulfonyl chloride | 0.6 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-(2-hydroxyethyl)-4-chlorobenzamide | 0.0075 mol, 1.5 g | OCCNC(C1=CC=C(C=C1)Cl)=O | C9H10ClNO2
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | N-(2-methylsulfonyloxyethyl)-4-chlorobenzamide | 2.1 g | CS(=O)(=O)OCCNC(C1=CC=C(C=C1)Cl)=O | C10H12ClNO4S
